US05446161
In a manner analogous to that described in Example 19(i). 7.70 g of N-(benzyloxycarbonyl)-3-(4-fluorophenyl)-DL-alanine were treated with isobutyl chloroformate followed by reaction with diazomethane to give 7.15g of benzyl [2-(4-fluorophenyl)-1(RS)-(2-diazoacetyl)ethyl]carbamate as a yellow solid of melting point 97° C.

reactant | N-(benzyloxycarbonyl)-3-(4-fluorophenyl)-DL-alanine | 7.70 g | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=C(C=C1)F)C(=O)O | C17H16FNO4
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | benzyl [2-(4-fluorophenyl)-1(RS)-(2-diazoacetyl)ethyl]carbamate | 7.15g | FC1=CC=C(C=C1)CC(C(C=[N+]=[N-])=O)NC(OCC1=CC=CC=C1)=O | C18H16FN3O3
